US04959377
A solution of 2-(4-nitro-3-pyridinyloxy)benzoic acid methyl ester, N-oxide (30 g) in 1.5 L ethanol containing 1.5 g platinum oxide was hydrogenated for five hours at 50 psi. The mixture was filtered and concentrated to 26 g solid which was purified by flash chromatography (silica, 5% methanol in dichloromethane) to give 20 g of 2-(4-amino-3-pyridinyloxy)benzoic acid methyl ester and 4.5 g solid, d 200°. The latter material was purified by flash chromatography (silica, 10% methanol in dichloromethane) to give 3.4 g solid, d 200°. This material was recrystallized from ethanol/ether to give 2.5 g solid, d 200°.

reactant | 2-(4-nitro-3-pyridinyloxy)benzoic acid methyl ester | COC(C1=C(C=CC=C1)OC=1C=NC=CC1[N+](=O)[O-])=O | C13H10N2O5
solvent | ethanol | 1.5 L, 1.5 g | C(C)O | C2H6O
product | 2-(4-amino-3-pyridinyloxy)benzoic acid methyl ester | 20 g | COC(C1=C(C=CC=C1)OC=1C=NC=CC1N)=O | C13H12N2O3
